US08076516B2
To a solution of 2-((2S,3S)-3-(3-(3-hydroxy-3-propylhexyl)phenyl)-2-methyl-3-(trimethylsilyloxy)propyl)isoindoline-1,3-dione in EtOH is added trifluoroacetic acid. The reaction mixture is stirred at room temperature then concentrated under reduced pressure, re-evaporated with EtOAc then with hexane to give 2-((2S,3S)-3-hydroxy-3-(3-(3-hydroxy-3-propylhexyl)phenyl)-2-methylpropyl)isoindoline-1,3-dione.

reactant | 2-((2S,3S)-3-(3-(3-hydroxy-3-propylhexyl)phenyl)-2-methyl-3-(trimethylsilyloxy)propyl)isoindoline-1,3-dione | OC(CCC=1C=C(C=CC1)[C@H]([C@H](CN1C(C2=CC=CC=C2C1=O)=O)C)O[Si](C)(C)C)(CCC)CCC | C30H43NO4Si
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | EtOH | CCO | C2H6O
product | 2-((2S,3S)-3-hydroxy-3-(3-(3-hydroxy-3-propylhexyl)phenyl)-2-methylpropyl)isoindoline-1,3-dione | O[C@@H]([C@H](CN1C(C2=CC=CC=C2C1=O)=O)C)C1=CC(=CC=C1)CCC(CCC)(CCC)O | C27H35NO4
